US07842688B2
b) Benzyl 3-{2-[2-(2-carboxyethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
A solution of 0.16 g of benzyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-{2-[2-(2-methoxycarbonylethyl)phenoxy]ethoxy}piperidine-1-carboxylate in 4 ml of dioxane is admixed with 0.4 ml of 2N NaOH and stirred at 80° C. over 3 hours. The reaction mixture is cooled to room temperature and acidified to pH 6 with 1N HCl. The solution is admixed with brine and extracted with ethyl acetate (2×). The combined organic phases are dried over sodium sulphate and concentrated by evaporation. The crude title compound is obtained as a yellow foam from the residue. Rt=5.64.

reactant | benzyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-{2-[2-(2-methoxycarbonylethyl)phenoxy]ethoxy}piperidine-1-carboxylate | 0.16 g | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCCOC2=C(C=CC=C2)CCC(=O)OC)C=CC=C1 | C42H49NO9
reactant | NaOH | 2N, 0.4 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | Benzyl 3-{2-[2-(2-carboxyethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(=O)(O)CCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OCC2=CC=CC=C2)C=CC=C1 | C41H47NO9
